US05965563
4-(5-indanylamino)-pyrido[2,3-d]pyrimidine hydrochloride
A solution of 6-chloropyrido[2,3-d]pyrimidine (1.656 g, 10 mM) and 5-aminoindan (1.332 g, 10 mM) in isopropanol (60 ml) is heated to reflux for about 20 h. The resulting salt suspension is then cooled to room temperature, filtered and the residue washed with ice-cooled isopropanol to give almost pure title compound in about 80% yield.

reactant | 6-chloropyrido[2,3-d]pyrimidine | 10 mM, 1.656 g | ClC1=CC2=C(N=CN=C2)N=C1 | C7H4ClN3
reactant | 5-aminoindan | 10 mM, 1.332 g | NC=1C=C2CCCC2=CC1 | C9H11N
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
product | 4-(5-indanylamino)-pyrido[2,3-d]pyrimidine hydrochloride | about 80% yield | Cl.C1CCC2=CC(=CC=C12)NC=1C2=C(N=CN1)N=CC=C2 | InChI=1S/C16H14N4.ClH/c1-3-11-6-7-13(9-12(11)4-1)20-16-14-5-2-8-17-15(14)18-10-19-16;/h2,5-10H,1,3-4H2,(H,17,18,19,20);1H
